US05925676
To a solution mixture of 6.5 g of trimethylsilyl-1-propyne and 50 ml of tetrahydrofuran was added under nitrogen stream and at -30° C. 17.4 ml of 1.56 M hexane solution of n-butyllithium and the resulting mixture was stirred at the same temperature for 1 hour. Then, a solution mixture of 10 g of (RS)-4-oxo-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether and 100 ml of tetrahydrofuran was added by drops to the reaction solution obtained above, and the resulting mixture was stirred for further one hour. The reaction liquid thus obtained was after-treated and purified in the same manner as in (2) of the intermediate preparation example 1 to obtain 8.9 g of (1RS,4RS)-4-hydroxy-4-(3-trimethylsilyl-2-propynyl)-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether. Yield 59%

reactant | trimethylsilyl-1-propyne | 6.5 g | C[Si](C)(C)C#CC | C6H12Si
reactant | n-butyllithium | C(CCC)[Li]
reactant | (RS)-4-oxo-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 10 g | [Si](C)(C)(C(C)(C)C)OC1C=CC(C1)=O | C11H20O2Si
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.56 M, 17.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (1RS,4RS)-4-hydroxy-4-(3-trimethylsilyl-2-propynyl)-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 8.9 g, Yield 59% | [Si](C)(C)(C(C)(C)C)OC1C=CC(C1)(CC#C[Si](C)(C)C)O | C17H32O2Si2
